US04997667
A solution of 2 g (8.4 mmol) of 4-pyridylcarbamoyl-beta-alanine ethyl ester and 0.37 g (9.2 mmol) of sodium hydroxide in 50 ml of methanol and 0.1 ml of water is kept agitated for 24 hr at room temperature. After concentration to dryness, the resulting oily residue is taken up in 15 ml of water. After washing with 3 x 10 ml of dichloromethane, the aqueous phase is acidified with a 3 N hydrochloric acid solution until a pH close to 3 is obtained. The precipitate formed is filtered, washed with 10 ml of cold water and then dried 1.36 g (yield 95%) of 4-pyridylcarbamoyl-beta-alanine is obtained in the form of a solid having a melting point of 222° C.

reactant | 4-pyridylcarbamoyl-beta-alanine ethyl ester | 8.4 mmol, 2 g | C(C)OC(CCNC(NC1=CC=NC=C1)=O)=O | C11H15N3O3
reactant | sodium hydroxide | 9.2 mmol, 0.37 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 0.1 ml | O | H2O
product | 4-pyridylcarbamoyl-beta-alanine | 1.36 g, yield 95% | N1=CC=C(C=C1)NC(=O)NCCC(=O)O | C9H11N3O3
